US04665189
(a) 9-Bromo-2-methyl-4-decene
n-Butyl lithium (1.5M solution in hexane, 6.8 ml) was added to a stirred suspension of (3-methylbutyl)-triphenylphosphonium bromide (4.1 g) in dry tetrahydrofuran (50 ml) at -60° C. under nitrogen. The dark mixture was stirred for 40 minutes at -70° C. then a solution of 6-bromohexanal (1.8 g) in dry tetrahydrofuran (6 ml) was added. The pale mixture was stirred for a further 1 hour at -70° C. then evaporated under vacuum. The residue was extracted with ether and the extract was evaporated to a pale oil which was chromatographed on silica gel, eluting with 1:1 ether:hexane, to give the title compound as a colourless oil. MS M+ 232/234.

reactant | n-Butyl lithium | 1.5M, 6.8 ml | C(CCC)[Li]
reactant | (3-methylbutyl)-triphenylphosphonium bromide | 4.1 g | [Br-].CC(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 6-bromohexanal | 1.8 g | BrCCCCCC=O | C6H11BrO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 9-Bromo-2-methyl-4-decene | BrC(CCCC=CCC(C)C)C | C11H21Br
